US07151111B2
A solution of 10 mg (0.3 mmol) of (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride [Example 2g)] in 2.5 ml of dichloromethane is cooled to 0° C. and treated successively with 90 μl (0.6 mmol) of triethylamine and 50 μl (0.33 mmol) of trifluoroacetic acid anhydride. The reaction mixture is left to warm to RT and stirred in total during 3.5 hours. For the working-up, the reaction mixture is diluted with 2 ml of dichloromethane. The resulting solution is washed twice with 2 ml of water, the organic layer is separated, dried over sodium sulfate, and evaporated. For purification, the crude material is chromatographed on silica gel using a 98:2-mixture of dichloromethane and methanol as the eluent. There are obtained 60 mg (51% of theory) of (S)-2,2,2-trifluoro-N-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-acetamide as a white solid. MS: m/e=414 (M+NH4)+.

reactant | (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride | 0.3 mmol, 10 mg | Cl.N[C@H]1CC(N(C1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O
reactant | triethylamine | 0.6 mmol, 90 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 0.33 mmol, 50 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-2,2,2-trifluoro-N-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-acetamide | 60 mg, 51% | FC(C(=O)N[C@@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)(F)F | C19H16F4N2O3
